US07947851B2
Step b) Formation of 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one
A solution of 6-[((E)-{4-[(4-chlorophenyl)ethynyl]phenyl}methylidene)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (3.73 g, 8.97 mmol), sodium triacetoxyborohydride (5.70 g, 26.9 mmol) and acetic acid (0.77 mL, 13.5 mmol) in anhydrous DCE (120 mL) was stirred for 48 hrs at rt. Then the reaction mixture was diluted with water (150 mL) and an aqueous saturated solution of NaHCO3 (100 mL) and extracted with DCM (250 mL and 100 mL). The combined organic layers were dried over MgSO4 and evaporated under reduced pressure. The residue was crystallized from a DCM/pentane solution. The solid was filtered, washed with pentane (2×) and dried under reduced pressure to give 3.50 g (93%) of the title compound as a yellow powder. HPLC, Rt: 5.0 min (purity: 98.1%). 1H NMR (CDCl3) δ: 7.51 (d, J=8.2 Hz, 2H), 7.46 (d, J=8.5 Hz, 2H), 7.34 (m, 4H), 7.18 (d, J=2.6 Hz, 1H), 6.86 (dd, J=8.8, 2.6 Hz, 1H), 6.81 (d, J=8.8 Hz, 1H), 4.35 (s, 2H), 4.21 (brs, 1H), 1.71 (s, 6H).

reactant | 6-[((E)-{4-[(4-chlorophenyl)ethynyl]phenyl}methylidene)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 8.97 mmol, 3.73 g | ClC1=CC=C(C=C1)C#CC1=CC=C(C=C1)\C=N\C1=CC2=C(OC(OC2=O)(C)C)C=C1 | C25H18ClNO3
reactant | sodium triacetoxyborohydride | 26.9 mmol, 5.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 13.5 mmol, 0.77 mL | C(C)(=O)O | C2H4O2
solvent | DCE | 120 mL | ClCCCl | C2H4Cl2
solvent | water | 150 mL | O | H2O
product | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 3.50 g, 93% | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
